US08207174B2
(R)-4-(2-hydroxy-3-(1-(5-phenylthieno[2,3-d]pyrimidin-4-yl)piperidin-4-ylamino)propoxy)phenol
Synthesis followed SP6 (4 h), using 250 μmol (R)-2-((4-(methoxymethoxy)phenoxy)methyl)oxirane and 1-(5-phenylthieno[2,3-d]pyrimidin-4-yl)piperidin-4-amine to give O-MOM intermediate upon purification by prep. TLC (2 mm silica gel, PE/CH2Cl2/MeOH 4:6:1) with 57% yield. Product was obtained by MOM removal according to SP8 (1.5 eq. TosOH, 10 h) and purification by prep. TLC (1 mm silica gel, CH2Cl2/MeOH 90:10) with 55% yield.

reactant | (R)-2-((4-(methoxymethoxy)phenoxy)methyl)oxirane | 250 μmol | COCOC1=CC=C(OC[C@@H]2OC2)C=C1 | C11H14O4
reactant | 1-(5-phenylthieno[2,3-d]pyrimidin-4-yl)piperidin-4-amine | C1(=CC=CC=C1)C1=CSC=2N=CN=C(C21)N2CCC(CC2)N | C17H18N4S
product | (R)-4-(2-hydroxy-3-(1-(5-phenylthieno[2,3-d]pyrimidin-4-yl)piperidin-4-ylamino)propoxy)phenol | 57% yield | O[C@@H](COC1=CC=C(C=C1)O)CNC1CCN(CC1)C=1C2=C(N=CN1)SC=C2C2=CC=CC=C2 | C26H28N4O3S
